Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[N:1]#[C:2][C:7]([C:6](=[O:5])[H:9])([H:8])[H:10].[N:3]#[N:4]>>[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4],67.27079646348659
[C-:1]([O+:6]=[C:5]([O:4]/[C:2](=[N:3]\[H:10])[H:9])[H:11])([H:7])[H:8]>>[C:1](/[C:2](=[N:3]/[H:10])[O:4][C:5](=[O:6])[H:11])([H:7])([H:8])[H:9],30.907039690919888
[N:1]([C:2][H:8])([C:4]([O:3][C:5](=[O:6])[H:11])([H:9])[H:10])[H:7]>>[N:1](=[C:2](/[O:3][C:4]([C:5](=[O:6])[H:11])([H:9])[H:10])[H:8])\[H:7],55.01060114910211
[O:1]1[C:2](=[C:3]([H:8])[H:9])[C@:7]([C:5](=[O:4])[H:10])([H:13])[C:6]1([H:11])[H:12]>>[O:1]=[C:2]1[C:3]([H:8])([H:9])[O:4][C@@:5]2([H:10])[C:6]([H:11])([H:12])[C@@:7]12[H:13],48.025304293154804
[C:1]([C:2](=[C+:5][H:12])[O-:6])([H:7])([H:8])[H:9].[C:3](=[O:4])([H:10])[H:11]>>[C:1]([C@@:2]1([C:5](=[O:6])[H:12])[C:3]([H:10])([H:11])[O:4]1)([H:7])([H:8])[H:9],7.141694400170508
[C:1](=[C:2]([C@@:5]([C:3](=[O:4])[H:12])([O:6][H:8])[N:7]([H:13])[H:14])[H:11])([H:9])[H:10]>>[C:1]([C@@:2]([C:3](=[O:4])[H:12])([C:5](=[O:6])[N:7]([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],47.29286856835709
[N:1]([N:4]=[C:3]=[C:2]([C:5]#[N:6])[H:9])([H:7])[H:8]>>[N:1]([C:2]([C:3]#[N:4])([C:5]#[N:6])[H:9])([H:7])[H:8],50.6861151248334
[C:1](/[C:2]([N:3]=[O:4])=[C:7](/[C:5][N:6]([H:11])[H:12])[H:13])([H:8])([H:9])[H:10]>>[C:1]([c:2]1[n:3][o:4][c:5]([N:6]([H:11])[H:12])[c:7]1[H:13])([H:8])([H:9])[H:10],15.158076698842194
[H:8][H:11].[O+:1]#[C:2][C@@:3]1([H:9])[C-:4]([H:10])[N+:5]1=[C:6]([O-:7])[H:12]>>[O:1]=[C:2]([C@@:3]1([H:9])[C:4]([H:10])([H:11])[N:5]1[C:6](=[O:7])[H:12])[H:8],31.484327495613712
[C:4]([H:10])[H:11].[O:1]([C:2](=[C:3]([H:8])[H:9])[C:5]#[N:6])[H:7]>>[O:1]([C:2]1([C:5]#[N:6])[C:3]([H:8])([H:9])[C:4]1([H:10])[H:11])[H:7],8.99824968999448
[C:1]([C:2]1=[C:3]([H:11])[C@:7]1([C+:5]([N-:4][H:12])[N:6]([H:13])[H:14])[H:15])([H:8])([H:9])[H:10]>>[C:1]([c:2]1[c:3]([H:11])[n:4]([H:12])[c:5]([N:6]([H:13])[H:14])[c:7]1[H:15])([H:8])([H:9])[H:10],36.84763390259022
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]2([C:5]([H:12])([H:13])[O:6]2)[C:7]1([H:14])[H:15])[H:8]>>[H:12][H:13].[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]2([C-:5]=[O+:6]2)[C:7]1([H:14])[H:15])[H:8],80.426574986798
[C:1]([N:2]=[C:3]([H:10])[H:12])([H:7])([H:8])[H:9].[N:4](=[C:5]=[O:6])[H:11]>>[C:1](/[N:2]=[C:3](/[N:4]([C:5](=[O:6])[H:12])[H:11])[H:10])([H:7])([H:8])[H:9],69.65235937609535
[N:1]([C@@:2]([C:3]([C:4]([O:5][H:15])([H:13])[H:14])([H:11])[H:12])([C:6]#[N:7])[H:10])([H:8])[H:9]>>[N:1]([C@@:2]([C:3](=[C:4]([H:13])[H:14])[H:11])([C:6]#[N:7])[H:10])([H:8])[H:9].[O:5]([H:12])[H:15],60.399367798349
[C:1]([N:2]([C:3](/[N:4]=[N:5]/[H:12])=[C:7](/[C:6][H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([c:3]1[n:4][n:5]([H:12])[c:6]([H:13])[c:7]1[H:14])[H:11])([H:8])([H:9])[H:10],10.885944409577903
[C:1]([O:2][C@:3]1([H:11])[C:4](=[C:6]([H:13])[H:14])[O:5]1)([H:7])([H:8])[H:9].[H:10][H:12]>>[C:1]([O:2][C:3]([C:4](=[O:5])[C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9],35.4102764090175
[C:1]([N:2]([C:3]([C:4]#[N:5])([C:6]#[N:7])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1](/[N+:2](=[C:3](\[C:4]#[N:5])[C:6](=[N-:7])[H:12])[H:11])([H:8])([H:9])[H:10],50.0338775188329
[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([C:5]([H:16])([H:17])[H:18])[C:6]#[N:7])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C@:1]1([C:6]#[N:7])([H:8])[C:2]([H:11])([H:12])[C:3]1([C:4]([H:13])([H:14])[H:15])[C:5]([H:16])([H:17])[H:18].[H:9][H:10],110.22234748053002
[C:1]([C@:2]12[C@@:3]3([H:11])[C@:4]4([H:12])[C@@:5]3([H:13])[C@@:6]1([H:14])[C@:7]24[H:15])([H:8])([H:9])[H:10]>>[C:1]([C@@:6]1([H:14])[C:2]2=[C:7]([H:15])[C@@:4]3([H:12])[C@:3]2([H:11])[C@:5]31[H:13])([H:8])([H:9])[H:10],75.9165593146342
[N:3](=[C:4]([H:9])[H:10])[H:8].[O:1]=[C:2]([C:5]#[N:6])[H:7]>>[O:1]=[C:2]([N:3]([C:4]([C:5]#[N:6])([H:9])[H:10])[H:8])[H:7],42.0467832829781
[C-:2]1=[O+:7][C@@:5]([C:6]([H:15])([H:16])[H:17])([H:14])[O:4][C:3]1([H:12])[H:13].[C:1]([H:8])([H:9])([H:10])[H:11]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[O:4][C@:5]([C:6]([H:15])([H:16])[H:17])([H:14])[O:7]1)([H:8])([H:9])[H:10],22.75375957652949
[C:1]1([H:7])([H:8])[C:2]([H:9])=[C:3]([H:10])[C@@:4]2([H:11])[N:5]([H:12])[C@@:6]12[H:13]>>[C:1]1([H:7])([H:8])[C:2]([H:9])=[C:3]([H:10])[C@:4]([N:5]([H:12])[H:13])([H:11])[C:6]1,60.1855877321084
[O:1]1[C@:2]([C:3]([C:4]#[C:5][H:12])([H:10])[H:11])([H:9])[C:6][C:7]1([H:8])[H:13]>>[O:1]([C@@:2]([C:3]([C:4]#[C:5][H:12])([H:10])[H:11])([C:6]#[C:7][H:13])[H:9])[H:8],29.752492363996396
[C:1]([C@@:2]12[C:3]([H:11])([H:12])[C@:4]1([O:5][H:13])[C:6]([H:14])([H:15])[O:7]2)([H:8])([H:9])[H:10]>>[C:1]([C:2]1([C:3]([H:11])([H:12])[H:13])[C:4](=[O:5])[C:6]([H:14])([H:15])[O:7]1)([H:8])([H:9])[H:10],55.128685469517
[C:1]([N:2]([C@@:3]([C:4]([O:5][H:15])([H:13])[H:14])([C:6]#[N:7])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1](/[N:2]=[C:3](\[C:6]#[N:7])[H:12])([H:8])([H:9])[H:10].[C:4](=[O:5])([H:13])[H:14].[H:11][H:15],63.24612100048861
